US05472962
50 mg of [6-methoxy-2-(4-oxocyclohexyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone was dissolved in 4 ml of methanol and 0.5 ml of THF, followed by ice cooling, 6 mg of sodium borohydride was added, and the mixture was stirred at 0° C. for 15 minutes. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate, and then the solvent was distilled off. The resultant crude product was purified by TLC (developing solvent, chloroform:methanol=19:1) to obtain 32 mg of [6-methoxy-2-(4-hydroxycyclohexyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone.

reactant | [6-methoxy-2-(4-oxocyclohexyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 50 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2CCC(CC2)=O)C1 | C29H33NO4S
reactant | sodium borohydride | 6 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 4 ml | CO | CH4O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | [6-methoxy-2-(4-hydroxycyclohexyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 32 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2CCC(CC2)O)C1 | C29H35NO4S
